US06110938
2-[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]hexahydro-1H-isoindole-1,3-dione hydrochloride
A mixture of 1-(4-aminobutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (4.7 g, 16.1 mmol) and cis-1,2-cyclohexanedicarboxylic anhydride (3.23 g, 21 mmol) in pyridine (45 ml) was heated at reflux for 8 hours. At the end of the reaction, pyridine was removed to dryness. The crude product was purified on a silica gel column. The material thus obtained weighed 3.18 g (45%) as a clear oil. This oil was dissolved in ethanol (15 ml), then was treated with HCl in ethanol (45 ml). Crystallization took place upon cooling. The crystals were collected, 3.2 g, m.p.=229-231° C.

reactant | 1-(4-aminobutyl)-4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 16.1 mmol, 4.7 g | NCCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C16H22FN3O
reactant | cis-1,2-cyclohexanedicarboxylic anhydride | 21 mmol, 3.23 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | HCl | Cl | ClH
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 2-[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butyl]hexahydro-1H-isoindole-1,3-dione hydrochloride | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCCN2C(C3CCCCC3C2=O)=O)C=C1 | InChI=1S/C24H30FN3O3.ClH/c25-17-7-8-20-21(15-17)31-26-22(20)16-9-13-27(14-10-16)11-3-4-12-28-23(29)18-5-1-2-6-19(18)24(28)30;/h7-8,15-16,18-19H,1-6,9-14H2;1H
